US07652049B2
Step E: (4R)-1-{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}-4-phenylimidazolidin-2-one
A solution of (1R)—N2-{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}-1-phenylethane-1,2-diamine (96.0 mg, 0.22 mmol) in CH2Cl2 (15 mL) was cooled to 0° C. and DIPEA (230 μL, 1.32 mmol) was added followed by triphosgene (32.6 mg, 0.11 mmol). After 45 minutes, the reaction was poured into saturated NaHCO3 (25 mL). The mixture was extracted with EtOAc (75 mL). The organic layer was washed with brine, dried over Na2SO4, filtered, and concentrated. Purification of the residue by flash chromatography with 10 to 60% EtOAc/hexanes afforded (4R)-1-{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl)}4-phenylimidazolidin-2-one. The minor enantiomer was removed by chiral HPLC using an AD chiral column and 15% IPA/heptanes to afford enantiomerically pure product. Rf=0.16 (40% EtOAc/hexanes). LCMS=469.3 (M+1)+. 1H NMR (CDCl3, 500 MHz) (atropisomers present in 1:1 ratio, doubling of some peaks observed) δ 7.65 (m, 1H), 7.54 (d, J=7.7 Hz, 1H), 7.21-7.36 (m, 7H), 6.87-6.94 (m, 2H), 4.65-4.77 (m, 2H), 4.10-4.49 (m, 2H), 3.71 & 3.72 (2 singlets, 3H), 3.49-3.53 (m, 1H), 2.94-2.97 (m, 1H), 2.87 (m, 1H), 1.19-1.24 (m, 6H).

reactant | (1R)—N2-{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}-1-phenylethane-1,2-diamine | 0.22 mmol, 96.0 mg | C(C)(C)C=1C=CC(=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CNC[C@H](N)C1=CC=CC=C1)OC | C26H29F3N2O
reactant | DIPEA | 1.32 mmol, 230 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | triphosgene | 0.11 mmol, 32.6 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | NaHCO3 | 25 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | (4R)-1-{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}-4-phenylimidazolidin-2-one | C(C)(C)C=1C=CC(=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CN1C(N[C@@H](C1)C1=CC=CC=C1)=O)OC | C27H27F3N2O2
